US05254573
Step 1 Ethyl 3-amino-3-(5-pyrimidinyl)propanoate, hydrochloride
The t-butyl 3-amino-3-(5-pyrimidinyl)propanoate trifluoroacetate salt (1 g), prepared as in example 22, Step 2 was dissolved in 100 mL dry ethanol and 10 mL 4N HCl in dioxane and stirred at room temperature until transesterification was complete. The solvents were removed in vacuo and the residue taken up in ethyl acetate and diethyl ether. The resulting precipitate was filtered, washed with ether and dried (0.8 g) 1H NMR (300 MHz) (d6-DMSO) d 1.05 (t, J=7 Hz, 3H), 3.25 (m, 2H), 4.05 (q, J=7 Hz, 2H), 4.7 (m, 1H), 9.05 (s, 1H), 9.25 (s, 1H)

reactant | t-butyl 3-amino-3-(5-pyrimidinyl)propanoate trifluoroacetate salt | 1 g | FC(C(=O)O)(F)F.NC(CC(=O)OC(C)(C)C)C=1C=NC=NC1
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 3-amino-3-(5-pyrimidinyl)propanoate, hydrochloride | Cl.NC(CC(=O)OCC)C=1C=NC=NC1 | InChI=1S/C9H13N3O2.ClH/c1-2-14-9(13)3-8(10)7-4-11-6-12-5-7;/h4-6,8H,2-3,10H2,1H3;1H
